US08008302B2
Intermediate 8: 2-[(3S)-3-methylpiperazin-1-yl]pyrimidine hydrobromide
To a solution of (S)-2-methyl piperazine (4.0 g, 40.0 mmol) in xylene (100 mL) at 140° C. under nitrogen was added 2-bromopyrimidine (6.36 g, 40.0 mmol) slowly over a period of 30 min. The heating was continued for additional 15 h and cooled. The solid precipitated was filtered and dried under suction to afford the title compound (4 g, 40%). TLC-Chloroform/MeOH (8/2); Rf: 0.15.

reactant | (S)-2-methyl piperazine | 40.0 mmol, 4.0 g | C[C@@H]1NCCNC1 | C5H12N2
reactant | 2-bromopyrimidine | 40.0 mmol, 6.36 g | BrC1=NC=CC=N1 | C4H3BrN2
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[(3S)-3-methylpiperazin-1-yl]pyrimidine hydrobromide | 4 g, 40% | Br.C[C@H]1CN(CCN1)C1=NC=CC=N1 | InChI=1S/C9H14N4.BrH/c1-8-7-13(6-5-10-8)9-11-3-2-4-12-9;/h2-4,8,10H,5-7H2,1H3;1H/t8-;/m0./s1
